US06362341B1
Synthesis of N-(3,5-Dichlorobenzenesulfonyl)-L-prolyl-L-phenylalanine
3,5-Dichlorophenyl-sulfonyl-L-proline was coupled to L-phenylalanine ethyl ester using the procedure described in Method 3 to give the ethyl ester of the title compound (348 mg, 45%).

reactant | 3,5-Dichlorophenyl-sulfonyl-L-proline | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H11Cl2NO4S
reactant | L-phenylalanine ethyl ester | C(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C11H15NO2
product | N-(3,5-Dichlorobenzenesulfonyl)-L-prolyl-L-phenylalanine | 348 mg, 45% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C20H20Cl2N2O5S
